US04963530
To a solution of L-phenylalanine benzyl ester p-toluenesulfonic acid salt (1.71 g) and triethylamine (405 mg) in dry tetrahydrofuran (30 ml), which was cooled to 0° C., was added 4-trifluoromethylphenyl isocyanate (748 mg). The mixture was stirred at the same temperature for 30 minutes. After evaporation of the solvent, the residue was washed with 5% hydrochloric acid, saturated sodium bicarbonate solution and water successively, dried over magnesium sulfate and concentrated under reduced pressure to give N-(4-trifluoromethylphenylcarbamoyl)-L-phenylalanine benzyl ester (1.62 g) as white crystals.

reactant | L-phenylalanine benzyl ester p-toluenesulfonic acid salt | 1.71 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylphenyl isocyanate | 748 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(4-trifluoromethylphenylcarbamoyl)-L-phenylalanine benzyl ester | 1.62 g | C(C1=CC=CC=C1)OC([C@@H](NC(NC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=CC=C1)=O | C24H21F3N2O3
